US06107329
(S)-3-Amino-4-(4-hydroxy-piperidin-1-yl)-4-oxo-butyric acid tert-butyl ester
Diethylamine (1.0 mmol) was added to (S)-3-(9H-fluoren-9-ylmethoxycarbonyl-amino)4-(4-hydroxy-piperidin-1-yl)4-oxo-butyric acid tert-butyl ester in dimethylformamide (5 ml) at 25° C. After 1 hour, the reaction mixture was concentrated, the residue suspended in 1:1 ether/dichloromethane, filtered and concentrated. The residue was purified by chromatography on silica gel eluted with 1-50% ethanol in dichloromethane containing 0.5% ammonium hydroxide. Yield 217 mg, 80%.

reactant | Diethylamine | 1.0 mmol | C(C)NCC | C4H11N
reactant | (S)-3-(9H-fluoren-9-ylmethoxycarbonyl-amino)4-(4-hydroxy-piperidin-1-yl)4-oxo-butyric acid tert-butyl ester | C(C)(C)(C)OC(C[C@@H](C(=O)N1CCC(CC1)O)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C28H34N2O6
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (S)-3-Amino-4-(4-hydroxy-piperidin-1-yl)-4-oxo-butyric acid tert-butyl ester | C(C)(C)(C)OC(C[C@@H](C(=O)N1CCC(CC1)O)N)=O | C13H24N2O4
